US06255502B1
Sumatriptan caprate and gamma-cyclodextrin was complexed by the kneading method. Sumatriptan caprate (1.325 g) and gamma-cyclodextrin (3.675 g) were blended together. Water (6 mL) was added and the mixture ground together in a mortar with a pestle to form a uniform paste. Grinding was continued for 30 minutes. The paste was then dried in a vacuum oven (40° C.; 0 bar) for 48 hours. The solid mass was broken up, passed through a 60 mesh screen and returned to the vacuum oven (40° C.; 0 bar) for 12 hours in order to ensure uniform drying of the complex. Analysis by HPLC for sumatriptan base content, and Karl Fischer for moisture content gave the following results: % sumatriptan base was 16.78% and the moisture content was 6.80%. The complex was characterised by DSC, FT-IR and XRD.

reactant | Sumatriptan caprate | CNS(=O)(=O)CC=1C=CC2=C(C1)C(=CN2)CCN(C)C.[O-]C(=O)CCCCCCCCC
reactant | gamma-cyclodextrin | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](OC([C@@H]([C@H]5O)O)OC6[C@H](OC([C@@H]([C@H]6O)O)C7[C@H](OC([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@@H]([C@@H]([C@H]8O)O)O[C@@H]9[C@H](O[C@H](O2)[C@@H]([C@H]9O)O)CO)CO)CO)CO)CO)CO)CO)O)O)O | C48H80O39
reactant | Sumatriptan caprate | 1.325 g | CNS(=O)(=O)CC=1C=CC2=C(C1)C(=CN2)CCN(C)C.[O-]C(=O)CCCCCCCCC
reactant | gamma-cyclodextrin | 3.675 g | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](OC([C@@H]([C@H]5O)O)OC6[C@H](OC([C@@H]([C@H]6O)O)C7[C@H](OC([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@@H]([C@@H]([C@H]8O)O)O[C@@H]9[C@H](O[C@H](O2)[C@@H]([C@H]9O)O)CO)CO)CO)CO)CO)CO)CO)O)O)O | C48H80O39
solvent | Water | 6 mL | O | H2O
product | sumatriptan | CNS(=O)(=O)CC=1C=CC2=C(C1)C(=CN2)CCN(C)C | C14H21N3O2S
